*
.SUBCKT BAT120A 1 3 4
* The resistors do not reflect 
* physical devices.  Instead they
* improve modeling in the reverse
* mode of operation.
R1 4 1 2.56E+05 
D1 4 1 BAT120A
R2 4 3 2.56E+05 
D2 4 3 BAT120A
.MODEL BAT120A (D 
+ IS = 6.984E-06 
+ N = 1.023 
+ BV = 30 
+ IBV = 0.0002402 
+ RS = 0.1574 
+ CJO = 3.075E-10 
+ VJ = 0.6615 
+ M = 0.6098 
+ FC = 0.5 
+ TT = 0 
+ EG = 0.69 
+ XTI = 2 )
.ENDS
*
